US07034039B2
To a solution of 2-{(4-butoxy-6-ethoxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methyl}-1H-isoindole-1,3(2H)-dione (0.43 g, 1.2 mmol) in ethanol (20 ml) was added hydrazine monohydrate (0.13 ml, 2.7 mmol). The obtained mixture was refluxed under heating for 2 h. The reaction mixture was poured into saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (20 ml) and di-t-butyl dicarbonate (0.31 g, 1.4 mmol) was added thereto. The obtained mixture was stirred at room temperature for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl(4-butoxy-6-ethoxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methyl carbamate (0.36 g, 87.8%) as crystals.

reactant | 2-{(4-butoxy-6-ethoxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methyl}-1H-isoindole-1,3(2H)-dione | 1.2 mmol, 0.43 g | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)OCC)=O)CC(C)(C)C)CN1C(C2=CC=CC=C2C1=O)=O | C29H34N2O5
reactant | hydrazine monohydrate | 2.7 mmol, 0.13 ml | O.NN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | di-t-butyl dicarbonate | 1.4 mmol, 0.31 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | tert-butyl(4-butoxy-6-ethoxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methyl carbamate | 0.36 g, 87.8% | C(N)(OC(C=1N(C(C2=CC=C(C=C2C1OCCCC)OCC)=O)CC(C)(C)C)C(C)(C)C)=O | C26H40N2O5
